US20010027196A1
(E)-2-Amino-4-phenyl-6-styryl-pyrimidine-5-carbonitrile
From 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile, (E)-styrylboronic acid, tetrakis(triphenylphosphine)palladium(O) and sodium carbonate in dioxane/water. EI-MIS m/e (%): 298 (M+, 84), 297 ([M—H]+, 100).

reactant | 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Cl)C#N)C1=CC=CC=C1 | C11H7ClN4
reactant | (E)-styrylboronic acid | C(=C\C1=CC=CC=C1)/B(O)O | C8H9BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane water | O1CCOCC1.O
catalyst | tetrakis(triphenylphosphine)palladium(O) | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | (E)-2-Amino-4-phenyl-6-styryl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC=CC=C1)C#N)\C=C\C1=CC=CC=C1 | C19H14N4
